US08212034B2
Preparation of 3-[4-(4-fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl](2E)-propenoyl Methyl Carbonate
3-[4-(4-Fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl](2E)-propenoic acid (5 g, 0.012 m) was dissolved in methylene chloride (25 ml) and triethylamine (1.54 g, 0.015 m) was added at 25° C. The mixture was cooled to 0° C. and methyl chloroformate (1.31 g, 0.013 m) was added to the reaction mass slowly over a period of 10 min keeping the temperature below 5° C. The reaction mixture was stirred at 0-5° C. for 30 min and water (25 ml) was added to it. The organic layer was separated and washed with aqueous sodium bicarbonate solution (5% w/v, 20 ml) followed by water (20 ml). Methylene chloride was distilled out under reduced pressure at 40-45° C. to obtain the product as an oily mass, which was crystallized from n-hexane to obtain while crystalline solid (Yield: 5.4 g, 98%).

reactant | 3-[4-(4-Fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl](2E)-propenoic acid | 5 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/C(=O)O)C(C)C)N(S(=O)(=O)C)C | C18H20FN3O4S
reactant | triethylamine | 1.54 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 1.31 g | ClC(=O)OC | C2H3ClO2
reactant | water | 25 ml | O | H2O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-[4-(4-fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl](2E)-propenoyl Methyl Carbonate | Yield: 5.4 g, 98% | C(OC(\C=C\C=1C(=NC(=NC1C(C)C)N(S(=O)(=O)C)C)C1=CC=C(C=C1)F)=O)(OC)=O | C20H22FN3O6S
